* /Users/asphyx/Desktop/ltspice_stuff/Hybrid 2.asc
V1 HT 0 60
XU2 va N013 N014 ECC88
V4 N012 0 SINE(0 0.1 {Fin}) AC 1
Q4 N003 N003 N002 0 BC560C
R3 HT N002 330
Q1 N010 va N008 0 BC556B
R5 HT N008 {Rdrv}
R1 N014 0 {Rk}
V2 VCC 0 30
R6 out 0 {Rload}
R7 N011 outpp {Re}
R8 outpp N017 {Re}
Q5 N011 N009 VCC 0 BD140
Q6 N017 N019 0 0 BD139
R13 N015 N014 {Rfb}
C1 out outpp 940µ
C2 outpp N015 47µ
Q2 N019 N018 N017 0 BC560C
Q3 N009 N010 N011 0 BC550C
R4 VCC N009 220
R12 N019 0 220
Q7 N010 N016 N018 0 BC550C
R9 N010 N016 10k
R10 N016 N018 {Rbe}
R14 N018 0 {Rdrv}
R11 N013 0 1Meg
C3 N013 N012 0.47µ
C4 N010 va 10p
R15 N005 outpp 1Meg
R16 N007 0 2Meg
C5 N006 N005 1µ
Q8 N004 N003 N001 0 BC560C
R2 HT N001 330
R17 N004 N006 27k
Q9 va N004 N003 0 BC560C
R18 VCC N007 2Meg
XU1 N007 N005 VCC 0 N006 OPA2134
C6 N007 0 1µ
C7 N006 0 1µ
.model NPN NPN
.model PNP PNP
.lib /Users/asphyx/Library/Application Support/LTspice/lib/cmp/standard.bjt
.inc ECC88.inc
.inc opamp.sub
.options plotwinsize=0
.option numdgt=7
.param Fin = 1k
*.step param Fin list 1k 10k 20k
.tran 0 100ms 0 1us
.four {Fin} V(out)
*.ac dec 100 1 100k
*.step param Rload list 18 32 250
.param Rload = 32
.meas tran Iq avg I(R7)
.param Vbias = 1.6
.param Vbe = 0.7
.param Rbe = Vbe*10k/(Vbias-Vbe)
.meas tran Rbe_val param Rbe
.param Re = 2.2
.param Rdrv = 2.2k
.param Rk=820
.param Rfb=Rk*5.7317
*.param Rfb=24k
* +15V
.lib OPA2134.LIB
.backanno
.end
